US07288544B2
Synthesis of 4-(3-chlorophenyl)-2-methoxy-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide
62.8 mg (0.153 mmol) of 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was dissolved in 5 ml of dichloromethane. 52.7 mg (0.305 mmol) of mCPBA (m-chloroperbenzoic acid) was added thereto at 0° C. and stirred at the same temperature for 6 hours. 1 ml of saturated aqueous sodium bisulfite solution was added thereto at the same temperature and stirred for 30 minutes heating to room temperature. After the reaction mixture was diluted with dichloromethane, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was dissolved in 5 ml of methanol and excessive amounts of 295 mg (1.53 mmol) of sodium methoxide (28% methanol solution) was added at room temperature and stirred at 60° C. for 6 hours. After concentration under reduced pressure, the obtained residue was diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 1/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 0.153 mmol, 62.8 mg | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)SC | C22H22ClN3OS
reactant | mCPBA | 0.305 mmol, 52.7 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 1 ml | S([O-])(O)=O.[Na+]
reactant | sodium methoxide | 1.53 mmol, 295 mg | C[O-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(3-chlorophenyl)-2-methoxy-6-methyl-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)OC | C22H22ClN3O2
